US04190662
EXAMPLE VIII--2-Methoxy-6-ethoxy-4-(trichloromethyl)-pyridine
To a solution of 54.99 grams (0.20 mole) of 2-chloro-6-ethoxy-4-(trichloromethyl)pyridine dissolved in 100 ml of methanol at 60° C. was rapidly added a solution of 6.90 grams (0.3 mole) of sodium metal dissolved in 150 ml of methanol. The mixture was heated to reflux for ~1 hour and then stirred at 62° C. overnight and thereafter refluxed for 8 hours followed by stirring at 62° C. overnight and then refluxed for 1 hour. A solution of 3.45 grams of sodium metal dissolved in 75 ml of methanol was added and the mixture brought back to reflux. The mixture was thereafter cooled and covered and allowed to sit ~64 hours (over a weekend). The methanol was removed by evaporation and the residue diluted with water and extracted with methylene chloride. The extract was washed with water, dried with sodium sulfate and the methylene chloride removed by evaporation. The desired 2-methoxy-6-ethoxy-4-(trichloromethyl)pyridine product was recovered by crystallization of the residue from methanol followed by recrystallization from ethanol. The product was recovered in a yield of 8.5 grams and melted at 36°-38° C. Upon analysis, the product was found to have carbon, hydrogen, nitrogen and chlorine contents of 39.49, 3.54, 5.17 and 39.82 percent, respectively, as compared with the theoretical contents of 39.95, 3.72, 5.17 and 39.31 percent, respectively, as calculated for the above-named compound.

reactant | 2-chloro-6-ethoxy-4-(trichloromethyl)pyridine | 0.20 mole, 54.99 grams | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OCC | C8H7Cl4NO
reactant | sodium | 0.3 mole, 6.90 grams | [Na] | Na
reactant | sodium | 3.45 grams | [Na] | Na
reactant | methanol | 100 ml | CO | CH4O
reactant | methanol | 150 ml | CO | CH4O
reactant | methanol | 75 ml | CO | CH4O
product | 2-Methoxy-6-ethoxy-4-(trichloromethyl)-pyridine | COC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OCC | C9H10Cl3NO2
